US05859007
To a stirring solution of 1.0 g (3.52 mmol) of 4,5,6,7-Tetrahydro-1-Benzyl-1H-indazole-3-carboxylic acid ethyl ester, prepared as in Part A, in 15 mL of THF at 0° C. is added dropwise over 5 min a solution of 5.3 mL (5.3 mmol, 1.5 equiv) of a 1.0M solution of LiAlH4 in THF. The resulting solution is stirred at RT for 30 min then heated to 50° C. for 1 h. The reaction mixture is cooled to 0° C. and worked up by carefully quenching first with 0.22 mL of H2O, then 0.22 mL of 15% NaOH, then 0.66 mL of H2O. The resulting slurry is filtered and the filter cake triturated with 20 mL EtOAc and refiltered. The filtrates were combined, dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by Kugelrohr distillation gave 740 mg of (4,5,6,7-Tetrahydro-1-benzyl-1H-indazol-3-yl) methanol as a pale yellow thick oil: bp 225° C. at 0.8 mm; 1H NMR (CDCl3, 300 MHz) δ7.32-7.24 (m, 3H), 7.10 (m, 2H), 5.17 (s, 2H), 4.62 (s, 2H), 2.46 (m, 4H), 1.72 (m, 4H); low resolution MS (FAB)m/e 243 (MH+).

reactant | 4,5,6,7-Tetrahydro-1-Benzyl-1H-indazole-3-carboxylic acid ethyl ester | 3.52 mmol, 1.0 g | C(C)OC(=O)C1=NN(C=2CCCCC12)CC1=CC=CC=C1 | C17H20N2O2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (4,5,6,7-Tetrahydro-1-benzyl-1H-indazol-3-yl) methanol | 740 mg | C(C1=CC=CC=C1)N1N=C(C=2CCCCC12)CO | C15H18N2O
